US09216943B2
Preparation of 2-amino-2-(4-octylphenethyl)propane-1,3-diol (Fingolimod Freebase)
2-nitro-2-(4-octylphenethyl)propane-1,3-diol (3 g) and methanol (60 mL) are charged into a hydrogenation vessel at 25-30° C. and stirred. 10% Pd/C (0.6 g) is charged into the vessel, a hydrogen pressure of 4-5 Kg/cm2 applied and the reaction mixture is maintained under the same conditions for about 5 hours. The reaction mixture is filtered through a hyflow bed and washed with methanol (10 mL). The obtained filtrate is concentrated under reduced pressure at a temperature below 36° C. to obtain 8 mL of concentrated reaction mass. n-Hexane (50 mL) is added, the reaction mixture is cooled to 0-5° C. and maintained at the same temperature for about 1 hour. The solid obtained is filtered, washed with n-hexane (10 mL) and dried under vacuum at 36° C. to give the title compound.

reactant | 2-nitro-2-(4-octylphenethyl)propane-1,3-diol | 3 g | [N+](=O)([O-])C(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H31NO4
reactant | methanol | 60 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.6 g | [Pd] | Pd
solvent | n-Hexane | 50 mL | CCCCCC | C6H14
product | 2-amino-2-(4-octylphenethyl)propane-1,3-diol | NC(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H33NO2
